US05270465
b) 2-[(4-Methylphenoxy)methyl]-4(3H)-pteridinone
Obtained using the procedure described in section b of Example 9, starting with 2.5 g (0.0094 mole) of 4-amino-2-[(4-methylphenoxy)methyl]pteridine in 68.1 ml of 5% aqueous sodium hydroxide. Heating time: 3 hours 15 minutes at 85° C. Yld: 1.3 g (52%), m.p. 232°-233° C. (ethanol/N,N-dimethylformamide).

reactant | 4-amino-2-[(4-methylphenoxy)methyl]pteridine | 0.0094 mole, 2.5 g | NC1=NC(=NC2=NC=CN=C12)COC1=CC=C(C=C1)C | C14H13N5O
reactant | ethanol N,N-dimethylformamide | C(C)O.CN(C=O)C
solvent | sodium hydroxide | 68.1 ml | [OH-].[Na+]
product | 2-[(4-Methylphenoxy)methyl]-4(3H)-pteridinone | CC1=CC=C(OCC2=NC3=NC=CN=C3C(N2)=O)C=C1 | C14H12N4O2
